US05280032
9.6 g of 5-bromo-1-hydroxyindane was dissolved in 100 ml of dry methylene chloride. To the solution were added, at room temperature, 570 mg of pyridinium p-toluenesulfonate and 4.5 ml of 3,4-dihydro-2H-pyran. The resulting mxiture was stirred at the same temperature for 3 hours. The reaction mixture was added to ice water. The organic layer was separated, washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue thus obtained was purified by column chromatography (eluant: toluene/ethyl acetate=15/1) to obtain 13.1 g of oily 5-bromo-1-(tetrahydropyran-2-yloxy)indane.

reactant | 5-bromo-1-hydroxyindane | 9.6 g | BrC=1C=C2CCC(C2=CC1)O | C9H9BrO
reactant | pyridinium p-toluenesulfonate | 570 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | 3,4-dihydro-2H-pyran | 4.5 ml | O1CCCC=C1 | C5H8O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 5-bromo-1-(tetrahydropyran-2-yloxy)indane | 13.1 g | BrC=1C=C2CCC(C2=CC1)OC1OCCCC1 | C14H17BrO2
